US04018790
B. 2-amino-5-methylsulfonylbenzimidazole
One mole, 186.1 g., of 4-methylsulfonyl-o-phenylenediamine was suspended in 1.2 l. of water with stirring. One mole, 106 g., of cyanogenbromide was added portionwise to the reaction mixture. The reaction mixture was stirred for 4 hours and then filtered. Sodium hydroxide, 39 g. (1 m.) in 500 ml. of water, was added to the filtrate. The aqueous mixture was cooled in an ice bath and the product crystallized. The product was collected and dried before crystallization from ethanol-ether; yield 200 g., m.p. 233°-238° C.

reactant | 4-methylsulfonyl-o-phenylenediamine | CS(=O)(=O)C1=CC(=C(C=C1)N)N | C7H10N2O2S
reactant | cyanogenbromide | N#CBr | CBrN
solvent | water | O | H2O
product | 2-amino-5-methylsulfonylbenzimidazole | NC=1NC2=C(N1)C=CC(=C2)S(=O)(=O)C | C8H9N3O2S
